US05952511
1-Allyl-3,3-dimethoxyindolin-2-one
A solution of 3.86 g of 3,3-dimethoxyindolin-2-one in 30 ml of N,N-dimethylformamide was added dropwise to a suspension of 1.2 g of sodium hydride (60%) in 40 ml of N,N-dimethylformamide at 0° C. in a nitrogen stream. After the mixture was stirred at that temperature for 30 minutes, 2.60 ml of allyl bromide was added thereto. The resulting mixture was stirred for 1 hour and then concentrated. Chloroform was added to the residue, and the mixture was washed with an aqueous solution of sodium chloride. The organic layer was dried over anhydrous sodium sulfate and concentrated. The resulting crude product was purified by silica gel column chromatography (chloroform/hexane=1/1) to give 4.19 g (90%) of the title compound.

reactant | 3,3-dimethoxyindolin-2-one | 3.86 g | COC1(C(NC2=CC=CC=C12)=O)OC | C10H11NO3
reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | allyl bromide | 2.60 ml | C(C=C)Br | C3H5Br
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1-Allyl-3,3-dimethoxyindolin-2-one | 4.19 g, 90% | C(C=C)N1C(C(C2=CC=CC=C12)(OC)OC)=O | C13H15NO3
